* D:\15_Delta\14. ANPC Converter\ANPC_3Layer\SIMPLIS\PWM function\ANPC_PWM_TI.sxcmp
*#SIMETRIX
.node_map SW_Freq 88
.node_map LF_N 92
.node_map LF_P 84
.node_map LF_Pos 83
.node_map HFPWM_DIS 103
.node_map PWM_EN 99
.node_map DIS 102
.node_map HF_Duty 96
.node_map PWM_DIS 89
.node_map HF_C 93
.node_map HF_D 85
.node_map HF_DB 97
.node_map Load 101
.node_map LF_Neg 91
.node_map PWM_S1 86
.node_map PWM_S2 87
.node_map PWM_S3 90
.node_map PWM_S4 94
.node_map PWM_S5 95
.node_map PWM_S6 98
.node_map HFPWM_EN 100
.PRINT V(#HF_D)
.GRAPH :#HF_D curveLabel= D nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=true PROBEREF=Probe5  
.PRINT V(#HF_C)
.GRAPH :#HF_C curveLabel= C nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=true PROBEREF=Probe6  
X$U1 82 103 0 100 SIMPLIS_LOGIC_BB_BUF vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U10 102 81 0 89 103 SIMPLIS_LOGIC_BB_OR2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U2 88 0 93 85 97 97 102 102 0 96 PWM_generator_Comp
X$U24 98 77 0 75 86 SIMPLIS_LOGIC_BB_OR2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U25 90 79 0 92 92 SIMPLIS_LOGIC_BB_OR2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U26 71 73 0 93 84 SIMPLIS_LOGIC_BB_AND2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U27 75 76 0 92 93 SIMPLIS_LOGIC_BB_AND2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U3 84 68 0 83 89 SIMPLIS_LOGIC_BB_AND2 vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U4 86 69 0 85 84 SIMPLIS_LOGIC_BB_AND2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U5 92 72 0 91 89 SIMPLIS_LOGIC_BB_AND2 vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U6 87 70 0 84 84 SIMPLIS_LOGIC_BB_OR2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U7 94 78 0 92 85 SIMPLIS_LOGIC_BB_AND2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U8 95 74 0 94 71 SIMPLIS_LOGIC_BB_OR2 vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
X$U9 80 89 0 99 SIMPLIS_LOGIC_BB_BUF vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=250m VOL=0 VOH=5 DELAY=0 TH=500m
** From D:\15_Delta\14. ANPC Converter\ANPC_3Layer\SIMPLIS\PWM function\PWM_generator_Comp.sxcmp
.subckt PWM_generator_Comp 359 377 381 383 353 357 387 388 389 351
*#hierarchy
.node_map phase1_1L 374
.node_map OVREN_L 388
.node_map phase_1H 369
.node_map phase_1L 378
.node_map cond 382
.node_map duty_2 355
.node_map duty2_2H 367
.node_map CBC_protection1 386
.node_map duty2_2L 375
.node_map mini_pulse 364
.node_map phase1 354
.node_map phase2 358
.node_map duty1_H 352
.node_map Freq_IN 359
.node_map duty2_H 356
.node_map Deadtime_H 353
.node_map phase_2H 370
.node_map ramp 360
.node_map phase_2 363
.node_map PWM_H 383
.node_map Deadtime_L 357
.node_map duty 351
.node_map phase_2L 379
.node_map pulse 361
.node_map PWM_L 381
.node_map phase2_2H 368
.node_map phase2_2L 376
.node_map CBC_protection 389
.node_map phase 362
.node_map cond2 380
.node_map OVREN_1H 385
.node_map OVREN_1L 384
.node_map PWM_base 371
.node_map duty1_1H 365
.node_map Phase_IN 377
.node_map duty1_1L 373
.node_map phase1_1H 366
.node_map OVREN_H 387
.node_map clk_pulse 372
.print
+ ALL
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 50m 0


E1 224 228 351 0 1
E10 234 238 353 0 1
E11 229 0 362 0 1
E12 354 0 225 0 1
E13 225 229 353 0 1
E14 366 0 234 0 1
E15 245 249 353 0 1
E16 238 0 369 0 1
E17 249 0 378 0 1
E18 374 0 245 0 1
E19 367 0 235 0 1
E2 228 0 362 0 1
E20 226 230 355 0 1
E21 239 0 370 0 1
E22 235 239 355 0 1
E23 356 0 226 0 1
E24 247 251 357 0 1
E25 246 250 355 0 1
E26 230 0 363 0 1
E27 375 0 246 0 1
E28 236 240 357 0 1
E29 251 0 379 0 1
E3 352 0 224 0 1
E30 376 0 247 0 1
E31 227 231 357 0 1
E32 358 0 227 0 1
E33 240 0 370 0 1
E34 368 0 236 0 1
E35 250 0 379 0 1
E36 231 0 363 0 1
E37 385 0 387 0 5
E38 384 0 388 0 5
E39 386 0 389 0 5
E4 233 237 351 0 1
E40 362 0 377 0 -1
E41 355 0 348 351 1
E42 349 350 362 0 1
E43 350 0 351 0 1
E44 363 0 349 0 1
E5 365 0 233 0 1
E6 237 0 369 0 1
E7 244 248 351 0 1
E8 248 0 378 0 1
E9 373 0 244 0 1
.PRINT V(#PWM_L)
.GRAPH :#PWM_L axisType="grid" axisName="b" persistence=-1 curveLabel="PWM1L" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe1  
.PRINT V(#duty1_H)
.GRAPH :#duty1_H curveLabel= duty1 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=true PROBEREF=Probe10  
.PRINT V(254)
.GRAPH :254 curveLabel= U19-OUT nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=true PROBEREF=Probe11  
.PRINT V(286)
.GRAPH :286 curveLabel= U6-IN2 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=true PROBEREF=Probe12  
.PRINT V(#clk_pulse)
.GRAPH :#clk_pulse axisType="digital" persistence=-1 curveLabel="clk_pulse" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe15  
.PRINT V(#PWM_base)
.GRAPH :#PWM_base axisType="digital" persistence=-1 curveLabel="PWM_base" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe2  
.PRINT V(#cond)
.GRAPH :#cond curveLabel= cond nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=true PROBEREF=Probe3  
.PRINT V(#PWM_H)
.GRAPH :#PWM_H axisType="grid" axisName="a" persistence=-1 curveLabel="PWM1H" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe4  
.PRINT V(266)
.GRAPH :266 axisType="auto" persistence=-1 curveLabel="original" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe5  
.PRINT V(255)
.GRAPH :255 axisType="auto" persistence=-1 curveLabel="comp" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe6  
.PRINT V(#ramp)
.GRAPH :#ramp axisType="auto" persistence=-1 curveLabel="ramp" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe7  
.PRINT V(#duty)
.GRAPH :#duty axisType="auto" persistence=-1 curveLabel="duty" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=true PROBEREF=Probe8  
.PRINT V(#phase1_1H)
.GRAPH :#phase1_1H curveLabel= phase1_1H nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=true PROBEREF=Probe9  
X$U1 359 0 360 361 232 0 SIMPLIS_OSC101_BB  vars: FREQ0=1 VTOP=1 DUTY_RATIO=999.999m VBOT=0
X$U10 266 285 0 265 273 284 SIMPLIS_DIGI1_OR3_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U11 345 334 0 374 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U12 284 335 0 329 334 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U13 329 333 0 373 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U14 317 304 0 366 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U15 291 296 0 266 295 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U16 308 319 0 352 318 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U17 337 341 0 0 354 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U18 382 323 0 309 322 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U19 254 268 0 382 267 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U2 371 242 0 241 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U20 269 297 0 291 382 SIMPLIS_DIGI1_AND2_Y vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U21 255 270 0 254 269 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U22 279 292 0 372 SIMPLIS_DIGI1_BUF_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U23 253 262 0 252 261 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U24 328 330 0 375 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U25 256 274 0 356 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U26 257 276 0 256 275 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U27 258 278 0 257 272 277 SIMPLIS_DIGI1_OR3_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U28 261 294 0 290 380 SIMPLIS_DIGI1_AND2_Y vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U29 259 280 0 258 279 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U3 299 303 0 365 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U30 380 316 0 307 315 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U31 252 260 0 380 259 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U32 272 302 0 298 301 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U33 298 300 0 367 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U34 288 275 0 358 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U35 277 332 0 328 331 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U36 336 338 0 0 358 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U37 310 301 0 368 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U38 290 293 0 258 292 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U39 344 331 0 376 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U4 264 281 0 352 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U40 306 312 0 356 311 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U41 313 325 0 358 324 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U42 307 314 0 306 313 SIMPLIS_DIGI1_AND2_Y vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U43 339 346 0 0 356 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U44 315 340 0 336 339 SIMPLIS_DIGI1_AND2_Y vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U45 320 327 0 354 326 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U46 342 347 0 0 352 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U47 309 321 0 308 320 SIMPLIS_DIGI1_AND2_Y vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U48 322 343 0 337 342 SIMPLIS_DIGI1_AND2_Y vars: NumInv=1 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U49 383 271 0 255 385 386 SIMPLIS_DIGI1_AND3_Y vars: NumInv=2 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U5 265 283 0 264 282 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U50 381 263 0 253 384 386 SIMPLIS_DIGI1_AND3_Y vars: NumInv=2 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U51 364 361 0 SIMPLIS_DIGI1_D_DF_SCG_YX$U51 vars: T_ACQ=15p
.SUBCKT SIMPLIS_DIGI1_D_DF_SCG_YX$U51 1 2 3 vars: T_ACQ=1n
.NODE_MAP CLK_OUT 1
.NODE_MAP TRIG 2
.NODE_MAP RTN 3
.NODE_MAP DISCHARGE 100
.NODE_MAP CAP_VOLTAGE 101
.NODE_MAP CHARGE 102
.VAR C1SHOT 1n
.VAR VPEAK 1
.VAR G1SHOT_CHG {C1SHOT*VPEAK/T_ACQ}
C1SHOT 101 3 {C1SHOT} IC=0
EBB9711 103 3 101 3 1
EBB9714 100 3 104 3 1
G1SHOT_CHG 3 101 102 3 {G1SHOT_CHG}
G1SHOT_DSCH 101 3 100 3 {10*G1SHOT_CHG}
X$UBB9701 105 106 3 2 SIMPLIS_LOGIC_BB_BUF vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1 VOL=0 VOH=5 DELAY=0 TH=2.5
X$UBB9702 107 108 3 106 100 SIMPLIS_LOGIC_BB_SRFF vars: DomType='None' IC=0 RIN=10Meg ROUT=10 HYSTWD=1 VOL=0 VOH=5 DELAY=0 TH=2.5
X$UBB9704 109 3 105 107 SIMPLIS_SUMMER2_BB vars: K1=350m K2=350m OFFSET=0 USE_RIN=0 RIN=10k
X$UBB9705 102 110 3 109 100 SIMPLIS_LOGIC_BB_SRFF vars: DomType='None' IC=0 RIN=10Meg ROUT=10 HYSTWD=1 VOL=0 VOH=5 DELAY=0 TH=2.5
X$UBB9713 104 111 3 103 112 SIMPLIS_LOGIC_BB_COMP vars: IC=0 RIN=100Meg ROUT=10 HYSTWD={VPEAK} VOL=0 VOH=5 DELAY=0
X$UBB9721 113 114 3 102 SIMPLIS_LOGIC_BB_BUF vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1 VOL=0 VOH=5 DELAY={T_ACQ} TH=2.5
X$UBB9722 1 115 3 102 113 SIMPLIS_LOGIC_BB_SRFF vars: DomType='None' IC=0 RIN=10Meg ROUT=10 HYSTWD=1 VOL=0 VOH=5 DELAY=0 TH=2.5
VBB9712 112 3 {VPEAK/2}
.ENDS SIMPLIS_DIGI1_D_DF_SCG_YX$U51

X$U52 372 243 0 361 364 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U6 267 287 0 266 286 SIMPLIS_DIGI1_OR2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U7 289 282 0 354 360 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p
X$U8 286 295 0 372 SIMPLIS_DIGI1_BUF_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
X$U9 273 305 0 299 304 SIMPLIS_DIGI1_AND2_Y vars: NumInv=0 IC=0 RIN=10Meg ROUT=10 HYSTWD=2n VOL=0 VOH=5 DELAY=2p TH=2.5
V1 369 362 1
V10 324 0 1
V14 370 363 1
V15 363 379 1
V16 326 0 1
V18 348 0 1
V2 241 0 500m
V6 318 0 1
V8 311 0 1
V9 362 378 1
.ends PWM_generator_Comp

.end
